US06255321B1
Then, 16.2 g of 5-phthalimido-1-pentanol was dissolved in 350 ml of diethyl ether, and 4.3 ml of phosphorus tribromide was added dropwise at 0° C. The reaction solution was stirred at room temperature for 9 hours and neutralized with saturated aqueous sodium hydrogen carbonate, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo for removal of the solvent. The residue was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=9:1) to give 9.2 g of 1-bromo-5-phthalimidopentane in a yield of 45%.

reactant | 5-phthalimido-1-pentanol | 16.2 g | C1(C=2C(C(N1CCCCCO)=O)=CC=CC2)=O | C13H15NO3
reactant | phosphorus tribromide | 4.3 ml | P(Br)(Br)Br | Br3P
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 350 ml | C(C)OCC | C4H10O
product | 1-bromo-5-phthalimidopentane | 9.2 g, yield of 45% | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
